Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Penicillins
 
Attending: ___
 
Chief Complaint:
Fall
 
Major Surgical or Invasive Procedure:
None.

 
History of Present Illness:
Mr. ___ is a ___ y/o man with PMH notable for HTN, dementia, 
hypothyroidism, and bradycardia s/p ___ placement who presents 
after fall at his nursing facility earlier today. About 12 noon, 
the patient was found on the floor in his room; he may not have 
been wearing any shoes. His walker, which he uses chronically, 
was located near him at the time. He does not recall specific 
events leading to this fall and cannot tell me the mechanism of 
the fall or how he landed. He denies any loss of consciousness, 
chest pain, dizziness/lightheadedness, palpitations, abdominal 
pain, nausea, vomiting, or other symptoms around the time of the 
fall. His son, who is present on my interview, is not sure if 
these assertions are correct given the patient's dementia. He 
was not confused more than his baseline nor did the staff at his 
nursing facility notice any focal neurologic deficits. He had 
not urinated or defecated prior to falling per his report. He 
did not have lunch but has had a normal appetite per his report. 
Vitals per EMS were BP 150/80, HR 76. He was sitting up next to 
a chair on their arrival.  

In the ED, initial vitals were T 97.9, HR 64, BP 165/90, RR 20, 
95% on RA. He complained of right rib pain in the ED and was 
found to have fractures of the ___ and 7th ribs on the right on 
CT scan. He received morphine 2 mg IV X 1 for pain.  

Currently, the patient denies any pain. He cannot recall exact 
events leading to fall or the fall itself. He denies any 
numbness/tingling of the extremities and denies any slurred 
speech.  

ROS: Denies fever, chills, night sweats, headache, vision 
changes, rhinorrhea, congestion, sore throat, cough, shortness 
of breath, chest pain, abdominal pain, nausea, vomiting, 
diarrhea, constipation, BRBPR, melena, hematochezia, dysuria, 
hematuria.  
 
Past Medical History:
Dementia  
Hypertension  
Hypothyroidism  
Hyponatremia  
Urinary incontinence  
History of ___  
s/p pacemaker placement (VDD mode)

 
Social History:
___
Family History:
Mother died of MI at a "somewhat young age." Patient is youngest 
of ___. He recalls that one brother died of an MI. No FH of DM or 
sudden death. Does not know health status of his children.

 
Physical Exam:
Vitals - T: 96.3 BP: 158/70 HR: 61 RR: 18 02 sat: 97%RA  
GENERAL: Elderly gentleman resting comfortably in bed  
HEENT: Normocephalic/Atraumatic, no tenderness to head/neck 
palpation, no JVD  
CARDIAC: S1 & S2 regular with III/VI systolic murmur  
LUNG: Bilateral Clear to auscultation. Minimal tenderness over 
right anterior ribs. No back pain or tenderness  
ABDOMEN: Nontender nondistended, bowel sounds present  
EXT: L elbow tumor, patient claims that it is chronic  
NEURO: Oriented to self only, CNII-XII intact to confrontation. 
___ strength and sensation intact in bilateral upper and lower 
extremies. No pronator drift. Finger to nose testing intact 
bilaterally.  

 
Pertinent Results:
Imaging:
Head CT 
No evidence of acute intracranial process.

CXR:
IMPRESSION: 
1) Stable cardiomegaly and bibasilar atelectasis. 
2) Two lower thoracic vertebral body compression fractures which 
appear 
similar to the prior study from ___. 

Chest/Abdomen/Pelvis CT (& CT Angiography)
IMPRESSION: 
1. Acute right sixth and seventh rib fractures. No pneumothorax. 

2. Small peripheral wedge-shaped opacity in the left lower lobe 
may represent a focus of atelectasis, though a pulmonary infarct 
cannot be excluded. 
3. Fat stranding around the descending and sigmoid colon may 
represent mild acute uncomplicated diverticulitis, though 
clinical correlation is needed.  
4. 4-mm left lower lobe pulmonary nodule. In the setting of 
multiple sequela of prior granulomatous exposure (including 
calcified hilar nodes and splenic granulomas), this may 
represent a non-calcified granuloma. However, if there are 
significant risks factors for malignancy (i.e., smoking), 
followup chest CT in one year can be pursued to evaluate for 
stability. 
5. Extensive atherosclerotic calcifications including the 
thoracoabdominal 
aorta and coronary arteries. 

Discharge Labs:
___ 05:45AM BLOOD WBC-7.8 RBC-3.83* Hgb-11.5* Hct-32.8* 
MCV-86 MCH-30.0 MCHC-35.0 RDW-14.0 Plt ___
___ 05:45AM BLOOD Glucose-94 UreaN-16 Creat-0.7 Na-137 
K-4.2 Cl-100 HCO3-28 AnGap-13
___ 05:45AM BLOOD CK(CPK)-135
___ 05:45AM BLOOD CK-MB-5 cTropnT-<0.01
___ 05:45AM BLOOD Calcium-9.4 Phos-3.4 Mg-2.___ year old gentleman with dementia & hypertension admitted 
after a mechanical fall with right rib fractures. 
  
1) Fall: The patient was admitted after a fall complicated by 2 
rib fractures.  Extensive imaging revealed no further injury, 
hemorrhage, pneumothorax or pleural effusion.  Overnight 
telemetry monitoring was unrevealing and the patient's pacemaker 
was working appropriately.  The patient's pain was controlled on 
tylenol. He was seen by Physical therapy and they recommended 
home physical therapy. The patient was started on Calcium & 
Vitamin D (Tums stopped) and Alendronate 35mg PO Qweek.
  
2) Hypertension: Continued home Fosinopril & Amlodipine.
  
3) Hypothyroidism: Continued home Levothyroxine.

4) Dementia: Continue home meds, Zyprexa & Aricept  
  
5) CAD:  The patient was continued on Aspirin & Simvastatin.
 
Medications on Admission:
synthroid ___ mcg qam  
aspirin 81 mg qam  
mvi qam  
fosinopril 20 mg bid  
amlodipine 5 mg qam  
prilosec 20 mg qam  
tums tid  
vitamin b12 100 mcg daily  
zyprexa 2.5 mg qhs  
simvastatin 10 mg qhs  
senna qhs  
aricept 10 mg qhs  
 
Discharge Medications:
1. Acetaminophen 500 mg Tablet Sig: One (1) Tablet PO Q6H (every 
6 hours) as needed for pain.  
2. Amlodipine 5 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  

3. Donepezil 5 mg Tablet Sig: Two (2) Tablet PO HS (at bedtime). 
 
4. Aspirin 81 mg Tablet, Chewable Sig: One (1) Tablet, Chewable 
PO DAILY (Daily).  
5. Levothyroxine 125 mcg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
6. Multivitamin     Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
7. Omeprazole 20 mg Capsule, Delayed Release(E.C.) Sig: One (1) 
Capsule, Delayed Release(E.C.) PO DAILY (Daily).  
8. Calcium 600 with Vitamin D3 600 mg(1,500mg) -400 unit Capsule 
Sig: One (1) Capsule PO once a day.
Disp:*30 Capsule(s)* Refills:*2*
9. Senna 8.6 mg Tablet Sig: One (1) Tablet PO DAILY (Daily) as 
needed for constipation.  
10. Simvastatin 10 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
11. Cyanocobalamin 100 mcg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
12. Olanzapine 2.5 mg Tablet Sig: One (1) Tablet PO HS (at 
bedtime).  
13. Fosinopril 20 mg Tablet Sig: One (1) Tablet PO BID (2 times 
a day).  
14. Fosamax 35 mg Tablet Sig: One (1) Tablet PO once a week.
Disp:*4 Tablet(s)* Refills:*2*
 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Status post mechanical fall
Traumatic right ___ and 7th rib fractures
Dementia
Hypertension
 
Discharge Condition:
Vital signs stable, pain controlled, able to take food by mouth.
 
Discharge Instructions:
You have been admitted to the hospital after a fall.  Our 
imaging reveals that you have suffered 2 fracture ribs on your 
right side.  You may use tylenol to control pain but this heal 
over time.  

Our physical therapists have seen you and think you would 
benefit from home Physical therapy which we have arranged for 
you.

Please take all your medicines as directed.
You may use Tylenol for pain control not to exceed 4 grams (8 
extra strength pills) per day.
We have started two medicines for your bones: 
1. Alendronate (Fosamax) to be taken once weekly 
2. Calcium with Vitamin D, to be taken once daily.  Please stop 
Tums for Calcium supplementation.

Please call your Doctor or 911 should you have any uncontrolled 
pain, chest pain or any other medical concerns.
 
Followup Instructions:
___